US06930120B2
2-Methyl-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-3-propyl-phenyl}-2-phenoxy-propionic acid
A solution of 3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-3-propyl-phenyl}-2-methyl-2-phenoxy-propionic acid ethyl ester in EtOH (1.5 mL) was treated with 5 N NaOH (140 μL) and then warmed to 65° C. After 18 h, the mixture was acidified to pH=1 with 5 N HCl. The mixture was extracted with EtOAc and then the combined organic phases were dried (MgSO4), filtered and concentrated under reduced pressure to yield the title product. MS (EI) 500.2 (M+H)+; LC RT=3.22 min (>99% pure).

reactant | 3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-3-propyl-phenyl}-2-methyl-2-phenoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CCC)(OC1=CC=CC=C1)C)=O | C33H37NO5
reactant | NaOH | 5 N, 140 μL | [OH-].[Na+]
reactant | HCl | 5 N | Cl | ClH
solvent | EtOH | 1.5 mL | CCO | C2H6O
product | 2-Methyl-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-3-propyl-phenyl}-2-phenoxy-propionic acid | CC(C(=O)O)(CC1=CC(=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CCC)OC1=CC=CC=C1 | C31H33NO5
